US06037495
Synthesis of 2-(2-chloromethylphenyl)-2-oxoacetonitrile--(2)
A mixture of 98% cuprous cyanide (2.01 g), acetonitrile (40 ml) and 2-chloromethylbenzoyl chloride (3.79 g) was heated under reflux with stirring for 4 hours. After the mixture was cooled by allowing it to stand, the mixture was diluted with ether, the precipitated insoluble materials were filtered off, and then the filtrate was washed successively with a saturated aqueous solution of sodium bicarbonate, water and saturated brine. The ether layer thus obtained was dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure to obtain the crude product (3.49 g). The crude product was crystallized from ether-haxane to give the title compound (2.85 g, yield: 79.5%, white crystals).

reactant | acetonitrile | 40 ml | C(C)#N | C2H3N
reactant | 2-chloromethylbenzoyl chloride | 3.79 g | ClCC1=C(C(=O)Cl)C=CC=C1 | C8H6Cl2O
solvent | ether | CCOCC | C4H10O
product | 2-(2-chloromethylphenyl)-2-oxoacetonitrile | 2.85 g, yield: 79.5% | ClCC1=C(C=CC=C1)C(C#N)=O | C9H6ClNO
